Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ s/p RnYGB ___ OSH, ex-lap w LOA and internal hernia 
repair ___ p/w acute onset abdominal pain at 11:30am today. She 
states she hasn't been feeling well for the past week, with no 
appetite and intermittent fevers, which she's treated with 
Tylenol. She has been taking the PPI/Carafate she's prescribed 
for her marginal ulcer seen on endoscopy in ___ 
(thought to be triggered by smoking, from which she has 
subsequently abstained). She hasn't been eating much because of 
the loss of appetite. She describes the pain as epigastric 
radiating to her back, sharp, unrelenting. She states it is 
similar in location and character to the pain she's had 
previously with marginal ulcers, but the pain has never started 
abruptly before.
She had a loose bowel movement today and yesterday, non-bloody 
and non-painful. She is mildly nauseated, no emesis. Denies 
melena, SOB, cough, dizziness, palpitations, weakness, numbness, 
leg swelling, sick contacts.
She had been scheduled for a follow-up EGD ___ (4 days from 
now) to evaluate progress since ___.

 
Past Medical History:
Past Medical History:
Asthma
Marginal ulcers
Depression
Anxiety

Past Surgical History:
PSH:
1.  Laparoscopic Roux-en-Y gastric bypass 130 cm antecolic,
Roux-en-Y performed by Dr. ___ at ___.
2.  Exploratory laparotomy, lysis of adhesions, repair of
internal hernia, ___, ___.

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
PE at Adm:
AOx3, cooperative.
HEENT: mucous membranes moist, anicteric sclera
CARD: RRR
RESP: CTAB
ABD: Soft, obese, non-distended, well-healed surgical scars.
Epigastrum and LUQ significantly TTP. No rebound or involuntary 
guarding. Normoactive bowel sounds, no tympany.
EXT: No cyanosis, clubbing or edema
SKIN: warm and dry
NEURO: Moving all 4 limbs purposefully

 
Pertinent Results:
n/p
 
Brief Hospital Course:
After Admission patient was managed conservatively with NPO, IV 
PPI, carafate and pain meds. She was stable and her issues has 
resolved and subsequently she was advanced to bari 3 diet. she 
had a incidental finding of urinary infection which was managed 
by antibiotics. at the time of discharge her pain was well 
controlled with po pain meds, she was on oral PPI twice a day 
and carafate. She will go through EGD on ___ for further 
evaluation and she will be seen in Dr ___ 
afterwards.

 
Medications on Admission:
omeprazole 40mg BID
ondansetron 8mg qday
sucralfate 10ml qid
multivitamin chewable qday
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*45 Tablet Refills:*0
2. Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth every twelve (12) hours Disp #*14 Capsule 
Refills:*0
3. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*1
4. Sucralfate 1 gm PO QID 
RX *sucralfate [Carafate] 1 gram 1 tablet(s) by mouth four times 
a day Disp #*60 Tablet Refills:*2
5. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN severe pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*20 Tablet Refills:*0
6. Docusate Sodium 100 mg PO BID constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
marginal ulcers

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call your surgeon or return to the emergency department 
if you develop a fever greater than 101.5, chest pain, shortness 
of breath, severe abdominal pain, pain unrelieved by your pain 
medication, severe nausea or vomiting, severe abdominal 
bloating, inability to eat or drink or any other symptoms which 
are concerning to you.  
Diet: Stay on Stage III diet until your follow up appointment. 
Do not self advance diet, do not drink out of a straw or chew 
gum  

Resume your home medications.  

You will be starting some new medications:  
1. You are being discharged on medications to treat the painn. 
These medications will make you drowsy and impair your ability 
to drive a motor vehicle or operate machinery safely. You MUST 
refrain from such activities while taking these medications.  
2. You should take a chewable complete multivitamin with 
minerals. No gummy vitamins.  
3. You will be taking pantoprazole 40 twice a day.
4. You should take a stool softener, Colace, twice daily for 
constipation as needed, or until you resume a normal bowel 
pattern.  
 5. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) Examples are Ibuprofen, Motrin, Aleve, Nuprin and 
Naproxen. These agents will cause bleeding and ulcers in your 
digestive system.
 
Activity:   No heavy lifting of items ___ pounds for 6 weeks. 
You may resume moderate exercise at your discretion, no 
abdominal exercises.  
 
Followup Instructions:
___